US06765012B2
3-{[4-(3-Pyrrolidin-1-yl-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 217, 3-{[4-(3-Iodo-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one and pyrrolidine are converted to the named compound.

reactant | 3-{[4-(3-Iodo-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | ICCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C18H17IN2O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 3-{[4-(3-Pyrrolidin-1-yl-propoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | N1(CCCC1)CCCOC1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C22H25N3O2
